US04255429
The starting material is prepared as follows. The mixture of 16.8 g of 3,3-tetramethyleneglutaric anhydride, 9.4 g of 3-aminopyridine and 225 ml of xylene is stirred and refluxed for 48 hours while collecting the water formed. After cooling in the refrigerator the precipitate obtained is filtered off and recrystallized from 300 ml ethanol-hexane, to yield the 8-(3-pyridyl)-8-azaspiro[4,5]decan-7,9-dione melting at 153°-154°.

reactant | 3,3-tetramethyleneglutaric anhydride | 16.8 g | C1CCC2(C1)CC(=O)OC(=O)C2 | C9H12O3
reactant | 3-aminopyridine | 9.4 g | NC=1C=NC=CC1 | C5H6N2
solvent | xylene | 225 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 8-(3-pyridyl)-8-azaspiro[4,5]decan-7,9-dione | N1=CC(=CC=C1)N1C(CC2(CCCC2)CC1=O)=O | C14H16N2O2
